US04714776
A mixture of 100 g (0.497 mole) of 4-bromobenzoic acid and 100 g of thionyl chloride in 300 ml of dichloromethane containing a few drops of N,N-dimethylformamide was heated at reflux for two days. The low boiling liquid were then removed by evaporation, and the remaining liquid was distilled to provide 4-bromobenzoyl chloride.

reactant | 4-bromobenzoic acid | 0.497 mole, 100 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | thionyl chloride | 100 g | S(=O)(Cl)Cl | Cl2OS
catalyst | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
